US08048897B2
(2) Synthesis of 2-(4-Methylbenzyl)phenol
To a solution of (2-benzyloxyphenyl)-p-tolylmethanol (1.5 g, 4.43 mmol) in methanol (27 mL), a 20% palladium hydroxide catalyst (150 mg) was added and furthermore 2N—HCl (0.37 mL) was added thereto. The mixture was stirred under a hydrogen atmosphere for 24 hours, and then the catalyst was filtered off. The solvent was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:10)] to obtain the title compound (617 mg, 70%).

reactant | (2-benzyloxyphenyl)-p-tolylmethanol | 4.43 mmol, 1.5 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)C | C21H20O2
reactant | HCl | 0.37 mL | Cl | ClH
solvent | methanol | 27 mL | CO | CH4O
catalyst | palladium hydroxide | 150 mg | [OH-].[Pd+2].[OH-]
product | 2-(4-Methylbenzyl)phenol | 617 mg, 70% | CC1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C14H14O
